US07919628B2
To a solution of 108 mg 2-[(1-Hydroxy-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester, 72 mg 1-benzothiazol-2-yl-ethanol and 372 mg diphenyl-[4-[1H,1H,2H,2H-perfluorodecyl]phenyl]phosphine in 2.5 mL dry THF a solution of 322 mg bis(1H,1H,2H,2H-perfluorooctyl)azodicarboxylate in 2.5 mL dry THF was added slowly at 0° C. After 16 h at room temperature and under argon atmosphere 372 mg diphenyl-[4-[1H,1H,2H,2H-perfluorodecyl]phenyl]phosphine and 322 mg bis(1H,1H,2H,2H-perfluorooctyl)azo-dicarboxylate were added. After additional 24 h the solvent was evaporated, the residue taken up in 5 mL methanol and purified using a FluoroFlash-SPE cartridge with methanol/water 80/20. After removal of methanol the remaining phase was extracted with ethyl acetate twice. The combined organic fractions were washed with 2 M sodium hydroxide and water, dried over magnesium sulphate, filtrated and condensed to yield 137 mg 2-{[1-(1-benzothiazol-2-yl-ethoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester.

reactant | 2-[(1-Hydroxy-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester | 108 mg | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)=O | C16H17NO4
reactant | 1-benzothiazol-2-yl-ethanol | 72 mg | S1C(=NC2=C1C=CC=C2)C(C)O | C9H9NOS
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 2-{[1-(1-benzothiazol-2-yl-ethoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester | 137 mg | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)OC(C)C=1SC2=C(N1)C=CC=C2)=O | C25H24N2O4S
